US08754242B2
A solution of pivaloyl chloride (0.055 g, 0.57 mmol) in dichloromethane (2 ml) is added dropwise to a solution of (1RS,2SR,6RS,7SR)-4-(2,4,6-trimethylphenyl)-10-oxatricyclo[5.2.1.02,6]decane-3,5-dione (0.12 g, 0.42 mmol) in dichloromethane (2 ml) at room temperature and the reaction mixture is stirred for 2 minutes. A solution of triethylamine (0.08 ml) in dichloromethane (1 ml) is added and the reaction mixture is stirred at room temperature for 3 hours. The reaction mixture is diluted with dichloromethane (20 ml) and washed with saturated aqueous sodium bicarbonate solution. The organic phase is dried over anhydrous magnesium sulfate, filtered and the filtrate evaporated under reduced pressure to give (1RS,2SR,6RS,7SR)-5-oxo-4-(2,4,6-trimethylphenyl)-10-oxatricyclo[5.2.1.02,6]dec-3-en-3-yl 2,2-dimethylpropionate as a colourless oil.

reactant | pivaloyl chloride | 0.57 mmol, 0.055 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | (1RS,2SR,6RS,7SR)-4-(2,4,6-trimethylphenyl)-10-oxatricyclo[5.2.1.02,6]decane-3,5-dione | 0.42 mmol, 0.12 g | CC1=C(C(=CC(=C1)C)C)C1C(C2C3CCC(C2C1=O)O3)=O | C18H20O3
reactant | triethylamine | 0.08 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (1RS,2SR,6RS,7SR)-5-oxo-4-(2,4,6-trimethylphenyl)-10-oxatricyclo[5.2.1.02,6]dec-3-en-3-yl 2,2-dimethylpropionate | CC(C(=O)OC=1C2C3CCC(C2C(C1C1=C(C=C(C=C1C)C)C)=O)O3)(C)C | C23H28O4
